US07060697B2
To a solution of 2-[4-(4-cyclohexyl-3-trifluoromethyl-benzylsulfanyl)-phenyl]-[1,3]dioxane (90 mg, 0.2 mmol) in THF (10 mL), is added aqueous HCl (2N, 0.7 mL). The solution is stirred at room temperature for 4 h. The solution is diluted with diethyl ether (30 mL), and washed with saturated aqueous NaHCO3 (3×10 mL). The organic layer is washed with saturated aqueous NaCl, dried over Na2SO4, and partially concentrated followed by dilution with MeOH (10 mL). To the resulting solution is added triethyl amine (0.5 mL) and azetidine-3-carboxylic acid (46 mmol, 0.4 mmol). The resulting mixture is stirred at 50° C. for 30 min. The reaction is cooled to room temperature and NaCNBH3 (63 mg, 1 mmol) is added. The resulting mixture is stirred for 30 min followed by concentration to dryness. The crude product is purified by preparative RP LC-MS to give 1-[4-(4-cyclohexyl-3-trifluoromethyl-benzylsulfanyl)-benzyl]-azetidine-3-carboxylic acid as a colorless oil. 1HNMR (400 MHz, CD3OD) δ7.55–7.54 (m, 2H), 7.52–7.35 (m, 5H), 4.39 (s, 2H), 4.35 (m, 4H), 4.17 (s, 2H), 3.68 (tt, 1H), 2.90 (tt, 1H), 1.87–1.75(m, 5H), 1.72–1.48 (m, 5H); MS (ES+): (464.2, M+1)+.

reactant | 2-[4-(4-cyclohexyl-3-trifluoromethyl-benzylsulfanyl)-phenyl]-[1,3]dioxane | 0.2 mmol, 90 mg | C1(CCCCC1)C1=C(C=C(CSC2=CC=C(C=C2)C2OCCCO2)C=C1)C(F)(F)F | C24H27F3O2S
reactant | HCl | 2N, 0.7 mL | Cl | ClH
reactant | azetidine-3-carboxylic acid | 46 mmol | N1CC(C1)C(=O)O | C4H7NO2
reactant | NaCNBH3 | 1 mmol, 63 mg | [BH3-]C#N.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | triethyl amine | 0.5 mL | C(C)N(CC)CC | C6H15N
product | 1-[4-(4-cyclohexyl-3-trifluoromethyl-benzylsulfanyl)-benzyl]-azetidine-3-carboxylic acid | C1(CCCCC1)C1=C(C=C(CSC2=CC=C(CN3CC(C3)C(=O)O)C=C2)C=C1)C(F)(F)F | C25H28F3NO2S
